US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(4-methoxypyridin-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine hydrogen chloride
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine and 2-chloro-4-methoxypyridine provided the title compound as an amporphous solid: 1H NMR (400 MHz, CDCl3) δ 8.6, 8.08, 7.22, 7.12, 7.05, 6.90, 6.40, 5.92, 5.40, 5.00, 4.32, 4.20–4.10, 3.95, 3.86, 3.52, 2.81, 2.60, 1.33, 1.26, 1.18; IR (diffuse reflectance) 2966, 2934, 2685 (b), 2036 (w), 1974 (w), 1657, 1607 (s), 1493, 1463, 1442, 1404, 1293, 1265, 1232, 826 cm−1 HRMS (ESI) calcd for C27H34N5O3Cl+H1 512.2429. found 512.2417.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
reactant | 2-chloro-4-methoxypyridine | ClC1=NC=CC(=C1)OC | C6H6ClNO
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(4-methoxypyridin-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine hydrogen chloride | Cl.ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC(=C1)OC)CC | InChI=1S/C27H34ClN5O3.ClH/c1-6-21-26(19-10-9-17(34-4)13-20(19)28)30-22(7-2)27(31-21)32-23-15-33(16-24(23)36-8-3)25-14-18(35-5)11-12-29-25;/h9-14,23-24H,6-8,15-16H2,1-5H3,(H,31,32);1H/t23-,24+;/m1./s1
